US06740263B2
Synthesis of 9,10-bis(4-methylphenyl)-2-chloroanthracene
213.8 g of 4-bromotoluene dissolved in anhydrous THF(200 ml) was slowly added to 32.6 g of magnesium in 500 ml of anhydrous THF for 2 hours. The mixed solution was refluxed for 3 hours, and then cooled to room temperature. 121 g of 2-chloroanthraquinone was added to cooled solution. The resulting solution was stirred for 3 hours, and then refluxed for 3 hours. Then, 400 ml of 10% aqueous hydrochloric acid solution was added to the resulting solution. An organic layer was separated from the solution. The resulting solvent was distilled under a vacuum, by which a brown solution was obtained. 500 ml of Glacial acetic acid and 100 g of SnCl2.2H2O were added to the brown solution. The mixed solution was stirred at room temperature for 1 hour, heated for 3 hours and refluxed. The solution was further stirred at room temperature for 3 hours. Thus, a pale yellow product was obtained. This product was recrystallized using glacial acetic acid. In this way, a pure product was obtained in the form of pale yellow crystals(153 g, m.p. 202-203.5° C., yield 78%). Results of 1H NMR(200 MHz, CDCl3) and IR(KBr) for the obtained compound are described in the following Table 1.

reactant | 4-bromotoluene | 213.8 g | BrC1=CC=C(C=C1)C | C7H7Br
reactant | magnesium | 32.6 g | [Mg] | Mg
reactant | 2-chloroanthraquinone | 121 g | ClC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C14H7ClO2
reactant | hydrochloric acid | 400 ml | Cl | ClH
reactant | SnCl2.2H2O | 100 g | O.O.Cl[Sn]Cl
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 9,10-bis(4-methylphenyl)-2-chloroanthracene | 153 g, yield 78% | CC1=CC=C(C=C1)C=1C2=CC=CC=C2C(=C2C=CC(=CC12)Cl)C1=CC=C(C=C1)C | C28H21Cl
